US08039463B2
HOBt (70 mg, 0.54 mmol), DMAP (110 mg, 0.9 mmol), EDCI.HCl (104 mg, 0.54 mmol) followed by biphenyl-4-ylamine (92 mg, 0.54 mmol) were added to a stirred solution of cyclopropane-1,1-dicarboxylic acid methyl ester (65 mg, 0.45 mmol) in DMF (2 mL) and the resulting mixture was stirred at ambient temperature overnight. The reaction mixture was then diluted with water. The resulting precipitate was isolated by filtration and dried to afford 100 mg (75%) of 1-(biphenyl-4-ylcarbamoyl)-cyclopropanecarboxylic acid methyl ester.

reactant | HOBt | 0.54 mmol, 70 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.54 mmol, 104 mg | CCN=C=NCCCN(C)C.Cl
reactant | biphenyl-4-ylamine | 0.54 mmol, 92 mg | C1(=CC=C(C=C1)N)C1=CC=CC=C1 | C12H11N
reactant | cyclopropane-1,1-dicarboxylic acid methyl ester | 0.45 mmol, 65 mg | COC(=O)C1(CC1)C(=O)O | C6H8O4
catalyst | DMAP | 0.9 mmol, 110 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(biphenyl-4-ylcarbamoyl)-cyclopropanecarboxylic acid methyl ester | 100 mg, 75% | COC(=O)C1(CC1)C(NC1=CC=C(C=C1)C1=CC=CC=C1)=O | C18H17NO3
